US06686347B2
17a: 3-Hydroxy-5-methyl-2-(pyridin-4-yl)-indene-1-one
A mixture of 47.5 g (293 mmol) 4-methyl-phthalic anhydride and 28.6 ml (293 mmol) 4-pi-coline is heated to 165° C. for 18 h. The resulting material is stirred in 190 ml of boiling ethanol, filtered and washed with ethanol and diethyl ether, yielding the title compound: An. calc. (C15H11NO2) C, 75.94%; H, 4.67%; N, 5.90%; O, 13.49%; An. meas. C, 75.60%; H, 4.64%; N, 6.02%; O, 13.60%; 1H NMR (DMSO-d6) δ8.70 (d, 2H), 8.14 (d, 2H), 7.34 (m, 2H), 7.29 (s, 1H), 2.38 (s, 3H); FAB MS (M+H)+=238.

reactant | 4-methyl-phthalic anhydride | 293 mmol, 47.5 g | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
reactant | 4-pi-coline | 293 mmol, 28.6 ml | N1=CC=C(C=C1)C | C6H7N
solvent | ethanol | 190 ml | C(C)O | C2H6O
product | 3-Hydroxy-5-methyl-2-(pyridin-4-yl)-indene-1-one | OC1=C(C(C2=CC=C(C=C12)C)=O)C1=CC=NC=C1 | C15H11NO2
